US06787541B1
2-(2-Aminoethylamino)thieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone dihydrochloride (Example 55)
A solution of 2-(2-butoxycarbonylaminoethylamino)thieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone (58 mg, 0.14 mmol) in MeOH (5 mL) was treated with 4-M HCl in dioxane (0.5 mL), stirred at room temperature for 16 h and the resulting solid filtered and washed with ether to give the title compound (41 mg, 77%) as a white crystalline solid.

reactant | 2-(2-butoxycarbonylaminoethylamino)thieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone | 0.14 mmol, 58 mg | C(CCC)OC(=O)NCCNC=1N=C(C2=C(N1)C=CS2)C(=O)C=2SC=CC2 | C18H20N4O3S2
reactant | HCl | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 2-(2-Aminoethylamino)thieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone dihydrochloride | 41 mg, 77% | Cl.Cl.NCCNC=1N=C(C2=C(N1)C=CS2)C(=O)C=2SC=CC2 | InChI=1S/C13H12N4OS2.2ClH/c14-4-5-15-13-16-8-3-7-20-12(8)10(17-13)11(18)9-2-1-6-19-9;;/h1-3,6-7H,4-5,14H2,(H,15,16,17);2*1H
